US08476261B2
A solution of 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]-quinoline-3,1′-cyclopentane]-6-carboxylic acid (13 mg, 0.04 mmol) and 3-(1H-1,2,4-triazol-1-yl)propan-1-amine (5 mg, 0.04 mmol) and 5.5 μL triethylamine in DMSO (0.3 mL) was stirred at 90° C. for 24 h. The reaction mixture was cooled and freeze-dried overnight. The crude product was taken up in ACN and purified by prep HPLC to yield 10-(3-(1H-1,2,4-triazol-1-yl)propylamino)-8-amino-9-fluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxylic acid (3.2 mg, 18%) as a yellow solid. MS (EP) m/z: 443 (M++1). (Calcd. For C21H23FN6O4, 442.18).

reactant | 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]-quinoline-3,1′-cyclopentane]-6-carboxylic acid | 0.04 mmol, 13 mg | NC1=C2C(C(=CN3C2=C(C(=C1F)F)OCC31CCCC1)C(=O)O)=O | C16H14F2N2O4
reactant | 3-(1H-1,2,4-triazol-1-yl)propan-1-amine | 0.04 mmol, 5 mg | N1(N=CN=C1)CCCN | C5H10N4
reactant | triethylamine | 5.5 μL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
product | 10-(3-(1H-1,2,4-triazol-1-yl)propylamino)-8-amino-9-fluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxylic acid | 3.2 mg, 18% | N1(N=CN=C1)CCCNC1=C(C(=C2C(C(=CN3C2=C1OCC31CCCC1)C(=O)O)=O)N)F | C21H23FN6O4
